US06605617B2
2-(4-Ethylpiperazinyl)-6-nitrobenzenecarbonitrile
2,6-Dinitrobenzenecarbonitrile (1.0 eq) and ethylpiperazine (3.6 eq) were dissolved in DMF. The resulting solution heated at 90° C. for 2 hours. The solution was cooled to room temperature and poured into H2O. A precipitate formed which was filtered to yield the desired product as a brown solid. LC/MS m/z260.1 (MH+), Rf 1.69 minutes. 6-Amino-2-(4-ethylpiperazinyl)benzenecarbonitrile

reactant | 2,6-Dinitrobenzenecarbonitrile | 1.0 eq | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])C#N | C7H3N3O4
reactant | ethylpiperazine | 3.6 eq | C(C)N1CCNCC1 | C6H14N2
reactant | H2O | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-Ethylpiperazinyl)-6-nitrobenzenecarbonitrile | C(C)N1CCN(CC1)C1=C(C(=CC=C1)[N+](=O)[O-])C#N | C13H16N4O2
